US04801717
3-fluoro-phenol and isopropyl iodide were reacted to form 3-fluoro-isopropoxy-benzene which was reacted with nitric acid to obtain 2-isopropoxy-4-fluoro-nitro benzene which was reacted as in Example 1 to obtain 0-(4-nitro-3-isopropoxy-phenyl)-hydroxylamine melting at 104° C.

reactant | 3-fluoro-phenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 3-fluoro-isopropoxy-benzene | FC=1C=C(C=CC1)OC(C)C | C9H11FO
